### PR TITLE
feat(Space): add radial norm-power divergence formula

### PR DESCRIPTION
**Pull request by Lemmy00**
This adds a distributional divergence formula for radial norm-power vector fields on `Space d.succ`.

The main new result is:

```lean
lemma Space.distDiv_norm_zpow_smul_repr_self_eq_smul
    {d : ℕ} (q : ℤ) (hq : 0 < q + (d.succ : ℤ)) :
    ∇ᵈ ⬝ (distOfFunction (fun x : Space d.succ => ‖x‖ ^ q • basis.repr x)
      (IsDistBounded.zpow_smul_repr_self q (by omega))) =
      (((q + (d.succ : ℤ) : ℤ) : ℝ) •
        distOfFunction (fun x : Space d.succ => ‖x‖ ^ q)
          (IsDistBounded.pow q (by omega)))
```

This is intended as the first small PR toward the odd-dimensional Laplacian fundamental-solution/Riesz-kernel identity discussed on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/479953-Physlib/topic/Odd-dimensional.20average-distance.20inversion.20theorem/near/599527822). It generalizes the off-origin radial divergence step used before specializing to the existing `distDiv_inv_pow_eq_dim` boundary result.

The proof uses spherical coordinates and one-dimensional integration by parts on the radial coordinate.

Checks run locally:

```bash
lake update
lake exe cache get
lake build
lake build Physlib.SpaceAndTime.Space.Norm
lake build Physlib
./scripts/lint-style.py Physlib/SpaceAndTime/Space/Norm.lean
git diff --check
```

I also ran `lake exe lint_all`; it completed with existing unrelated style/transitive-import reports elsewhere in the repository, while the Lean linter section passed for `Physlib`.

Prepared with assistance from OpenAI Codex.

P.S.

Planned follow-up PRs, assuming this direction:

1. Add the distributional Laplacian recurrence for norm powers:
   ```lean
   Δᵈ (distOfFunction (fun x : Space d.succ => ‖x‖ ^ a) ...) =
     ((a : ℝ) * (((a - 2) + (d.succ : ℤ) : ℤ) : ℝ)) •
       distOfFunction (fun x : Space d.succ => ‖x‖ ^ (a - 2)) ...
   ```

2. Repackage the boundary Riesz step as a Laplacian theorem, using the existing `distDiv_inv_pow_eq_dim`.

3. Iterate the recurrence in odd dimension `2 * m + 1` to prove the real distributional fundamental-solution statement:
   ```lean
   ∃ c : ℝ, c ≠ 0 ∧
     ((Δᵈ^[m + 1]) (distribution induced by fun x => ‖x‖) =
       c • Physlib.Distribution.diracDelta ℝ 0)
   ```

4. Optionally expose the exact dimensional constant if reviewers prefer that over the existential form.

5. Keep the complex tempered-distribution/Fourier bridge downstream for now, unless maintainers think that layer also belongs in Physlib.

### CODE REVIEW

**Comment by jstoobysmith** [comment]
As a quick look at this - my first comment  is that, the proofs look kind of long. Is there anyway we can either: 
1. Break them down into smaller lemmas, or 
2. Golf the proofs to make them shorter?

**Comment by Lemmy00** [comment]
Thanks, agreed. I pushed a refactor which splits the long proof into smaller private lemmas:

- sphere/radial norm bookkeeping,
- the radial derivative as an inner product with the gradient,
- the two `zpow`/Jacobian arithmetic steps,
- the spherical-coordinate integral rewrite,
- and the divergence-to-radial-derivative reduction.

The public theorem proof is now mostly the final `calc`: reduce to the radial derivative integral, apply the one-dimensional integration-by-parts lemma, convert back from spherical coordinates, and identify the scalar multiple of `distOfFunction`.

I also golfed a couple of the pure algebra blocks. Locally I reran:

```bash
lake build Physlib.SpaceAndTime.Space.Norm
lake build Physlib
./scripts/lint-style.py Physlib/SpaceAndTime/Space/Norm.lean
git diff --check
```

File: Physlib/SpaceAndTime/Space/Norm.lean [hunk 1]
```diff
@@ -947,6 +950,388 @@ The proof
...
+  calc
+    r ^ d * r ^ q
+        = r ^ ((d : ℤ) + q) := by
+            rw [← zpow_natCast r d, ← zpow_add₀ hz (d : ℤ) q]
+    _ = r ^ ((p - 1 : ℕ) : ℤ) := by
+            congr 1; omega
+    _ = r ^ (p - 1) := by
+            rw [zpow_natCast]
+
+private lemma radial_norm_power_spherical_integral_eq_space_integral
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm.lean]: I think this lemma can be generalized and put in an Integrals file.

File: Physlib/SpaceAndTime/Space/Norm.lean [hunk 2]
```diff
@@ -947,6 +950,388 @@ The proof
...
+  have hn := n.2
+  rw [Metric.mem_sphere, dist_eq_norm, sub_zero] at hn
+  exact hn
+
+private lemma norm_smul_sphere {d : ℕ} (n : ↑(Metric.sphere (0 : Space d.succ) 1))
+    {r : ℝ} (hr : 0 ≤ r) :
+    ‖(r • (n : Space d.succ))‖ = r := by
+  simp [norm_smul, sphere_norm_eq_one n, abs_of_nonneg hr]
+
+private lemma radial_deriv_eq_grad_inner
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm.lean]: This result already appears in the `grad` file.

File: Physlib/SpaceAndTime/Space/Norm.lean [hunk 3]
```diff
@@ -947,6 +950,388 @@ The proof
 -/
 open Distribution
 
+private lemma integrable_isDistBounded_mul_schwartzMap_spherical {dm1 : ℕ}
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm.lean]: I think this result might already exist -if not it should be in the `IsDistBounded` file

**Comment by Lemmy00** [comment]
Thanks, addressed.

I checked for reusable results before adding/moving anything:
- Replaced the local radial derivative helper with the existing `grad_smul_inner_space` from `Space/Derivatives/Grad.lean`.
- Moved the radial Jacobian `zpow` algebra lemmas to `Space/Integrals/Basic.lean`.
- Promoted the scalar spherical integrability statement to `IsDistBounded.integrable_space_mul_spherical`; I did not find an existing exact scalar version, only the existing inner-gradient spherical integrability lemma.

Verification:
- `lake build Physlib.SpaceAndTime.Space.Integrals.Basic`
- `lake build Physlib.SpaceAndTime.Space.IsDistBounded`
- `lake build Physlib.SpaceAndTime.Space.Norm`
- `lake build Physlib`
- `./scripts/lint-style.py ...`
- `git diff --check`

File: Physlib/SpaceAndTime/Space/Norm.lean (hunk 1 above)
Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/Norm.lean]: I think this still needs to be done here.

Comment (Lemmy00) [reply Physlib/SpaceAndTime/Space/Norm.lean]: Addressed. I moved `radial_norm_power_spherical_integral_eq_space_integral` out of `Norm.lean` into `Space/Integrals/NormPow.lean` as a public integral lemma, and `Norm.lean` now imports and reuses it.

Verified with `lake build Physlib.SpaceAndTime.Space.Integrals.NormPow`, `lake build Physlib.SpaceAndTime.Space.Norm`, full `lake build Physlib`, style lint, `git diff --check`, and a `sorry`/`admit` scan on the touched files.

**Comment by jstoobysmith** [comment]
would you mind fixing the merge conflict on this PR. Sorry about this. (I'm also at a workshop currently - so sorry for my slow responses to changes).

**Comment by Lemmy00** [comment]
> would you mind fixing the merge conflict on this PR. Sorry about this. (I'm also at a workshop currently - so sorry for my slow responses to changes).

No worries at all. Done.

**Comment by jstoobysmith** [comment]
I'm struggling a bit with this PR, so I am going to try and articulate why, but may not do the best job at it: 

I think a lot of the lemmas are still in the wrong place, and not in there most obvious general form. For example, it doesn't really make sense for the lemmas like `norm_smul_sphere` to be in that file alone., and I think `radial_norm_power_spherical_integral_eq_space_integral` can be generalized to some lemma about general integrals, and spherical integrals which would make it much more useful.

**Comment by Lemmy00** [comment]
> I'm struggling a bit with this PR, so I am going to try and articulate why, but may not do the best job at it:
> 
> I think a lot of the lemmas are still in the wrong place, and not in there most obvious general form. For example, it doesn't really make sense for the lemmas like `norm_smul_sphere` to be in that file alone., and I think `radial_norm_power_spherical_integral_eq_space_integral` can be generalized to some lemma about general integrals, and spherical integrals which would make it much more useful.

Thanks, I agree this needed a more structural refactor.

I pushed `3a1e178f`, which changes the shape of the API rather than only moving the old lemma:

* moved `norm_smul_sphere` to `Space/Module.lean`, since it is a general geometric fact about `Space`;
* added general spherical-coordinate integral lemmas in `Space/Integrals/Basic.lean`, including an integrability transport lemma and a reusable `integral_volume_eq_spherical_integral`;
* removed the specialized `IsDistBounded.integrable_space_mul_spherical`;
* kept the norm-power-specific `zpow`/Jacobian arithmetic in `Space/Integrals/NormPow.lean`;
* rewrote `radial_norm_power_spherical_integral_eq_space_integral` as a short specialization of the new general integral lemma.

Verification:
`lake build Physlib.SpaceAndTime.Space.Integrals.NormPow`
`lake build Physlib.SpaceAndTime.Space.Norm`
`lake build Physlib`
`lake exe runPhyslibLinters`
focused style lint, `git diff upstream/master --check`, and a `sorry`/`admit` scan on touched files.

File: Physlib/SpaceAndTime/Space/Integrals/NormPow.lean [hunk 4]
```diff
@@ -48,6 +51,61 @@ private lemma npow_indicator_rpow_eq {n : ℕ} {s : Set ℝ} (hs : 0 ∉ s) (p :
...
+  calc
+    r ^ d * r ^ q
+        = r ^ ((d : ℤ) + q) := by
+            rw [← zpow_natCast r d, ← zpow_add₀ hz (d : ℤ) q]
+    _ = r ^ ((p - 1 : ℕ) : ℤ) := by
+            congr 1; omega
+    _ = r ^ (p - 1) := by
+            rw [zpow_natCast]
+
+lemma radial_norm_power_spherical_integral_eq_space_integral
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Integrals/NormPow.lean:84]: This looks much better. Couple of last things - can we swap the equality present in this lemma.

File: Physlib/SpaceAndTime/Space/Norm.lean
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm.lean]: The stuff below doesn't really belong in this heading. It should have its own.

Comment (Lemmy00) [reply Physlib/SpaceAndTime/Space/Norm.lean]: Thanks, addressed in `c9b9a4a5`.

I swapped the statement direction of `radial_norm_power_spherical_integral_eq_space_integral`, updated the downstream rewrite in `Norm.lean`, and split the section heading so the radial norm-power divergence material has its own `B.3` section, with the Dirac-delta result moved to `B.4`.

Verified with `lake build Physlib.SpaceAndTime.Space.Integrals.NormPow`, `lake build Physlib.SpaceAndTime.Space.Norm`, full `lake build Physlib`, `lake exe runPhyslibLinters`, focused style lint, `git diff upstream/master --check`, and a `sorry`/`admit` scan.

**Review by jstoobysmith — APPROVED** [review]
This now looks good - many thanks for this PR and going through the review process. I've approved this.
